US05508251
Preparation of ethyl 2-(4-chlorophenyl)-2,3-epoxy-3-methylbutanoate
A solution of ethyl 2-(4-chlorophenyl)-3-methylbut-2-enoate (11.4 g, 0.048 mol), prepared in Example 1c, m-chloroperbenzoic acid (15.7 g, 0.050 mol) and iodine (0.1 g) in dichloromethane (400 ml) was stirred for 48 hours at 50°-55° c. During this period, the course of the reaction was monitored by analytical thin layer chromatography and three further portions (2.0 g) of m-chloroperbenzoic acid and two further portions (0.1 g) of iodine were added to the mixture. The precipitate which formed during this time was dissolved by the addition of 2N sodium hydroxide solution (40 ml) and iced water (200 ml). The organic phase was then separated and washed with dilute sodium hydroxide solution (100 ml) and then with water (3×200 ml). The solution was dried (sodium sulphate), evaporated in vacuo, and the crude product purified by flash silica column chromatography, eluting with 1,2-dichloroethane, to give the title compound (8.6 g, 71%) as an oil.

reactant | ethyl 2-(4-chlorophenyl)-3-methylbut-2-enoate | 0.048 mol, 11.4 g | ClC1=CC=C(C=C1)C(C(=O)OCC)=C(C)C | C13H15ClO2
reactant | m-chloroperbenzoic acid | 0.050 mol, 15.7 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | m-chloroperbenzoic acid | 2.0 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydroxide | 2N, 40 ml | [OH-].[Na+]
reactant | water | 200 ml | O | H2O
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
catalyst | iodine | 0.1 g | II | I2
catalyst | iodine | 0.1 g | II | I2
product | ethyl 2-(4-chlorophenyl)-2,3-epoxy-3-methylbutanoate | 8.6 g, 71% | ClC1=CC=C(C=C1)C1(C(=O)OCC)C(C)(C)O1 | C13H15ClO3
